US06893815B1
tert-Butyl-1-piperazinecarboxylate
Piperazine (236 g, 2.75 mmol, 6 eq.) was suspended in acetonitrile (1.8 L) in a three neck round bottom flask fitted with a mechanical stirrer and diisopropylethylamine (87.96 mL, 504 mmol) was added. Di-tert-butyldicarbonate was dissolved in acetonitrile (200 mL) and added to the reaction mixture via dropping funnel. A white precipitate formed overnight which was filtered, washed twice with acetonitrile (50 mL) and dried in vacuo. The filtrate was concentrated in vacuo and additional white precipitate (piperazine) was filtered from the reaction mixture. The filtrate was reduced in volume in vacuo and partitioned between water and hexane (100 mL/100 mL). The water was extracted twice with hexane (100 mL). The hexane layers were pooled, washed with brine (100 mL), dried (MgSO4) and concentrated in vacuo to give 66.32 g (79%) of the title compound. 1H NMR (CDCl3): δ 1.45 (s, 9H), 2.79 (t, 4H), 3.38 (t, 4H).

reactant | Piperazine | 2.75 mmol, 236 g, 6 eq. | N1CCNCC1 | C4H10N2
reactant | diisopropylethylamine | 504 mmol, 87.96 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Di-tert-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 1.8 L | C(C)#N | C2H3N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | tert-Butyl-1-piperazinecarboxylate | 66.32 g, 79% | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
